US07094780B1
Synthesis of 2-Benzyloctahydropyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester
2-Benzyloctahydropyrrolo[3,4-c]pyridine (21.6 g, 100 mmol [Himmler T., Petersen U., Bremm K-D., Endermann R., Stegemann M., Wetzstein H-G., 1995, U.S. Pat. No. 5,578,604] is dissolved in 1000 mL of dichloromethane containing triethylamine (16.7 mL, 120 mmol). Then di-t-butyldicarbonate (22.6 g, 120 mmol) is added and the mixture is stirred at room temperature for 18 hours. The organic layer is washed with saturated NaHCO3, brine, dried, and concentrated to provide 30 g of the title compound as an oil; MS EI+: 318 (MH+).

reactant | 2-Benzyloctahydropyrrolo[3,4-c]pyridine | C(C1=CC=CC=C1)N1CC2CNCCC2C1 | C14H20N2
reactant | triethylamine | 120 mmol, 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 120 mmol, 22.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | 2-Benzyloctahydropyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester | 30 g | C(C)(C)(C)OC(=O)N1CC2C(CC1)CN(C2)CC2=CC=CC=C2 | C19H28N2O2
